US08703941B2
Synthesis of 3-((dimethylamino)methyl)cyclobutanol.
To a solution of N,N-dimethyl-3-oxocyclobutanecarboxamide (700 mg, 5 mmol) in 20 mL of THF was added LAH (370 mg, 10 mmol, 2 eq) at 0° C. The mixture was heated at reflux for 2 h and cooled down. The reaction was quenched with 1 mL of water carefully and filtered. The filtrated was concentrated to afford the desired product as a brown oil (370 mg, 56%), which was used in the next step without further purification. MS: m/z 130.0 (M+H)+.

reactant | N,N-dimethyl-3-oxocyclobutanecarboxamide | 5 mmol, 700 mg | CN(C(=O)C1CC(C1)=O)C | C7H11NO2
reactant | LAH | 10 mmol, 370 mg, 2 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-((dimethylamino)methyl)cyclobutanol | 370 mg, 56% | CN(C)CC1CC(C1)O | C7H15NO
